US05847182
In a 250 ml, three-necked, frame dried, round bottom flask, aluminum 0.40 g (15 mmol), biphenyl 20.0 g (130 mmol), and (1,2-dichloroethyl)- trichlorosilane 7.50 ml (53.5 mmol) were reacted as in Example 1 at 120° C. for 30 min. Freshly distilled hexane (60 ml) was added to the reaction mixture and insoluble solids in hexane were filtered from the organic solution. After hexane was distilled, the reaction products were vacuum distilled to give 6.53 g of 9-(trichlorosilyl)methylfluorene (bp; 130°-135° C./0.2 torr, yield; 18%).

reactant | aluminum | 15 mmol, 0.40 g | [Al] | Al
reactant | biphenyl | 130 mmol, 20.0 g | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
reactant | (1,2-dichloroethyl)- trichlorosilane | 53.5 mmol, 7.50 ml | ClC(CCl)[Si](Cl)(Cl)Cl | C2H3Cl5Si
solvent | hexane | CCCCCC | C6H14
solvent | hexane | 60 ml | CCCCCC | C6H14
product | 9-(trichlorosilyl)methylfluorene | 6.53 g, yield; 18% | Cl[Si](Cl)(Cl)CC1C2=CC=CC=C2C=2C=CC=CC12 | C14H11Cl3Si
